US06353017B1
A solution of N-[2-[(3-(allyloxycarbonyl)-phenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(t-butoxycarbonyl)-L-phenylalaninamide (3.18 g, 6.10 mmol) in 96% formic acid (40 mL) is stirred at room temperature for 5.5 hours. Formic acid is evaporated (high vacuum, 25° C.), and the residue is taken up in water (50 mL) and basified with saturated NaHCO3 (100 mL). The resulting mixture is extracted with EtOAc (3×50 mL), and then washed with water (2×100 mL) and brine (1×100 mL), dried over MgSO4, and evaporated to yield N-[2-[(3-(allyloxycarbonyl)-phenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-L-phenylalaninamide as a clear thick oil.

reactant | N-[2-[(3-(allyloxycarbonyl)-phenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(t-butoxycarbonyl)-L-phenylalaninamide | 6.10 mmol, 3.18 g | C(C=C)OC(=O)C=1C=C(C=CC1)COC[C@H](C#N)NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=CC=C1)C)=O | C29H35N3O6
solvent | formic acid | 40 mL | C(=O)O | CH2O2
product | N-[2-[(3-(allyloxycarbonyl)-phenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-L-phenylalaninamide | C(C=C)OC(=O)C=1C=C(C=CC1)COC[C@H](C#N)NC([C@@H](N)CC1=CC(=CC=C1)C)=O | C24H27N3O4
